US05300687
Ethyl 3-phenylpropyl 3-trifluoromethylbenzylphosphonate
3-trifluoromethylbenzylphosphonic acid mono ethyl ester (1.5 g, 5.6 mmol) was dissolved in 20 mL of CH2Cl2 and cooled to 0° C. under nitrogen. After the oxalyl chloride (8.46 mmol) had been added, 0.04 mL of DMF was slowly added in 3 portions, and the resultant mixture was stirred at room temperature for 3 hours. Evaporation in vacuo gave the crude acid chloride which was used without further purification. 3-Phenyl-1-propanol (0.76 g, 5.6 mmol), in 15 mL of CH2Cl2, was added to a cold mixture of crude chloro ethyl 3-trifluoromethylbenzylphosphonate (5.6 mmol), triethylamine (0.85 g, 8.4 mmol), and CH2Cl2 (20 mL) cooled at 0° C. The resultant reaction mixture was allowed to stir at room temperature for 4 hours. Evaporation of the volatile components gave a quantitative yield of the expected product. Purification by column chromatography (silica gel, 25% ethyl acetate/hexane) gave 1.66 g (52.3%) of analytically pure product as a pale yellow oil. D.C.I.M.S.[MH+, 387].

reactant | 3-trifluoromethylbenzylphosphonic acid mono ethyl ester | 5.6 mmol, 1.5 g | C(C)OP(O)(=O)CC1=CC(=CC=C1)C(F)(F)F | C10H12F3O3P
reactant | oxalyl chloride | 8.46 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-Phenyl-1-propanol | 5.6 mmol, 0.76 g | C1(=CC=CC=C1)CCCO | C9H12O
reactant | chloro ethyl 3-trifluoromethylbenzylphosphonate | 5.6 mmol | FC(C=1C=C(CP(OCl)(OCC)=O)C=CC1)(F)F | C10H11ClF3O3P
reactant | triethylamine | 8.4 mmol, 0.85 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.04 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-phenylpropyl 3-trifluoromethylbenzylphosphonate | quantitative yield | FC(C=1C=C(CP(OCC)(OCCCC2=CC=CC=C2)=O)C=CC1)(F)F | C19H22F3O3P
